### PR TITLE
[Merged by Bors] - feat(Analysis/Convex/Between): `Wbtw.of_le_of_le`, `Sbtw.of_lt_of_lt`

### PR DESCRIPTION
**Pull request by jsm28**
Add two lemmas about betweenness in the underlying field:

```lean
lemma Wbtw.of_le_of_le {x y z : R} (hxy : x ≤ y) (hyz : y ≤ z) : Wbtw R x y z := by
```

```lean
lemma Sbtw.of_lt_of_lt {x y z : R} (hxy : x < y) (hyz : y < z) : Sbtw R x y z :=
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Between.lean [hunk 1]
```diff
@@ -583,6 +583,27 @@ section LinearOrderedField
...
+      field_simp
+  · by_cases hzx : z = x
+    · simp [hzx]
+    · right
+      have hzx0 : z - x ≠ 0 := by simpa [sub_eq_zero]
+      have hyx : 0 ≤ y - x := by simp [hxy]
+      have hzx' : 0 ≤ z - x := by simp [hxy.trans hyz]
+      have hzxlt : 0 < z - x := hzx'.lt_of_ne hzx0.symm
+      refine ⟨div_nonneg hyx hzx', (div_le_one hzxlt).2 ?_⟩
+      simpa
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Convex/Between.lean:602]: You nerd-sniped me into trying to prove an iff :)

How about this:
```suggestion
lemma wbtw_iff_of_le {x y z : R} (hxz : x ≤ z) : Wbtw R x y z ↔ x ≤ y ∧ y ≤ z := by
  cases hxz.eq_or_lt with
  | inl hxz =>
    subst hxz
    rw [← le_antisymm_iff, wbtw_self_iff, eq_comm]
  | inr hxz =>
    have hxz' : 0 < z - x := sub_pos.mpr hxz
    let r := (y - x) / (z - x)
    have hy : y = (r * (z - x) + x) := by simp [r, hxz'.ne']
    simp [hy, wbtw_mul_sub_add_iff, mul_nonneg_iff_of_pos_right hxz', ← le_sub_iff_add_le,
      mul_le_iff_le_one_left hxz', hxz.ne]

lemma wbtw_of_le_of_le {x y z : R} (hxy : x ≤ y) (hyz : y ≤ z) : Wbtw R x y z :=
  (wbtw_iff_of_le (hxy.trans hyz)).mpr ⟨hxy, hyz⟩
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/Analysis/Convex/Between.lean [hunk 2]
```diff
@@ -583,6 +583,24 @@ section LinearOrderedField
...
 
+lemma wbtw_iff_of_le {x y z : R} (hxz : x ≤ z) : Wbtw R x y z ↔ x ≤ y ∧ y ≤ z := by
+  cases hxz.eq_or_lt with
+  | inl hxz =>
+    subst hxz
+    rw [← le_antisymm_iff, wbtw_self_iff, eq_comm]
+  | inr hxz =>
+    have hxz' : 0 < z - x := sub_pos.mpr hxz
+    let r := (y - x) / (z - x)
+    have hy : y = (r * (z - x) + x) := by simp [r, hxz'.ne']
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Convex/Between.lean:594]:
```suggestion
    have hy : y = r * (z - x) + x := by simp [r, hxz'.ne']
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks, this looks good to me, but I wrote too much of the code myself to request a merge :)

File: Mathlib/Analysis/Convex/Between.lean [hunk 3]
```diff
@@ -583,6 +583,24 @@ section LinearOrderedField
...
+    simp [hy, wbtw_mul_sub_add_iff, mul_nonneg_iff_of_pos_right hxz', ← le_sub_iff_add_le,
+      mul_le_iff_le_one_left hxz', hxz.ne]
+
+lemma wbtw_of_le_of_le {x y z : R} (hxy : x ≤ y) (hyz : y ≤ z) : Wbtw R x y z :=
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean:598]:
```suggestion
lemma Wbtw.of_le_of_le {x y z : R} (hxy : x ≤ y) (hyz : y ≤ z) : Wbtw R x y z :=
```

File: Mathlib/Analysis/Convex/Between.lean [hunk 4]
```diff
@@ -583,6 +583,24 @@ section LinearOrderedField
...
+  (wbtw_iff_of_le (hxy.trans hyz)).mpr ⟨hxy, hyz⟩
+
+lemma sbtw_of_lt_of_lt {x y z : R} (hxy : x < y) (hyz : y < z) : Sbtw R x y z :=
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Between.lean:601]:
```suggestion
lemma Sbtw.of_lt_of_lt {x y z : R} (hxy : x < y) (hyz : y < z) : Sbtw R x y z :=
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by Ruben-VandeVelde** [comment]
(And please adjust the PR title for Yaël's suggested renames)

**Comment by j-loreaux** [comment]
Thanks!

bors merge
